US05710161
3-(3,5-Bis(trifluoromethyl)phenethyl)-4-benzyl-1-(3-(4-benzylpiperidino)propyl)-5-oxo-1,2,4-triazole
Prepared as for Example 6 using 3-(3,5-bis(tri-fluoromethyl)phenethyl)-4-benzyl-1-(3-chloropropyl)-5-oxo-1,2,4-triazole (Description 2) and 4-benzylpiperidine. MS m/e (CI+) 631 (100%, M+1).

reactant | 3-(3,5-bis(tri-fluoromethyl)phenethyl)-4-benzyl-1-(3-chloropropyl)-5-oxo-1,2,4-triazole | FC(C=1C=C(CCC2=NN(C(N2CC2=CC=CC=C2)=O)CCCCl)C=C(C1)C(F)(F)F)(F)F | C22H20ClF6N3O
reactant | 4-benzylpiperidine | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
product | 3-(3,5-Bis(trifluoromethyl)phenethyl)-4-benzyl-1-(3-(4-benzylpiperidino)propyl)-5-oxo-1,2,4-triazole | FC(C=1C=C(CCC2=NN(C(N2CC2=CC=CC=C2)=O)CCCN2CCC(CC2)CC2=CC=CC=C2)C=C(C1)C(F)(F)F)(F)F | C34H36F6N4O
